US07297700B2
7-Benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-ylamine
4-azido-7-benzyl-5,6,7,8-tetrahydro-1,7-naphthyridine (0.06 g, 0.226 mmol) was treated with 0.5 g of PS-PPh3 resin in a 8 ml mixture THF:H2O (18:1) at 32° C. ON. The reaction was monitored by LCMS and TLC. The reaction mixture was filtered and washed with THF and methanol. The combined filtrate was concentrated and used directly in the next step.

reactant | 4-azido-7-benzyl-5,6,7,8-tetrahydro-1,7-naphthyridine | 0.226 mmol, 0.06 g | N(=[N+]=[N-])C1=CC=NC=2CN(CCC12)CC1=CC=CC=C1 | C15H15N5
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF H2O | C1CCOC1.O
product | 7-Benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-ylamine | C(C1=CC=CC=C1)N1CCC=2C(=CC=NC2C1)N | C15H17N3
